Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Dilantin ___
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is an ___ F with a medical history notable for 
irritable bowel syndrome and dementia. 

She reports no problems with her bowels for many years until the 
acute onset of diarrhea ___ morning. Prior to 
this event she had no recent travel or sick contacts but did eat 
corned beef and cabbage at her local ___ hall (last ___ was 
___). She noted nausea with non-bloody, 
non-bilious vomitting and loose watery diarrhea. She had no 
fever, abdominal cramping, or blood in her stool.

Since that time her nausea/vomitting have improved but her 
diarrhea has not improved despite Imodium. She was unable to 
keep down oral foods and presented to the ED today. 

Vital signs on arrival to ___ ED: T 97.6, P 97, BP 167/81, 
100% on RA. Her evaluation in the ED was notable for guaiac 
positive stool, a WBC count of 4.1, and an elevated BUN to 33. 
In the ED she received 1 liter of normal saline.

Review of Systems: Pain assessment on arrival to the floor: ___ 
(no pain). No recent illnesses. No fevers, chills, or night 
sweats. No SOB, cough, or chest pain. No urinary symptoms. Other 
systems reviewed in detail and all otherwise negative.
 
Past Medical History:
Hypertension
Dementia
Osteoporosis
Irritable bowel syndrome
Macrocytosis of unclear etiology
Left ear hearing loss
Status post hysterectomy
Status post appendectomy
Status post ovarian cyst removal
Cataract surgery
Glaucoma
 
Social History:
___
Family History:
Not relevant to the current admission.
 
Physical Exam:
Vital Signs: T 98.6, P 64, BP 124/72, 95% on RA.

Physical examination:
- Gen: Elderly female sitting up in bed in NAD.
- HEENT: Hard of hearing. Right ear better than left.
- Chest: Normal respirations and breathing comfortably on room 
air. Lungs clear to auscultation bilaterally.
- CV: Regular rhythm. Normal S1, S2. No murmurs or gallops. JVP 
<5 cm. 
- Abdomen: Normal bowel sounds. Soft, nontender, nondistended. 
- Extremities: No ankle edema.
- Neuro: Alert, oriented x ___. Most of history aided by 
daughter. Does not know home medications or specifics timing of 
recent events. Has short-term memory impairment. Speech and 
language are normal. 
- Psych: Appearance, behavior, and affect all normal.

 
Pertinent Results:
Admission Labs:
___ 09:35AM BLOOD WBC-4.1 (Neuts-58 Bands-2 Lymphs-24 
Monos-15* Eos-0 Baso-1 ___ Myelos-0) RBC-4.40 
Hgb-14.9 Hct-43.5 MCV-99* MCH-33.8* MCHC-34.2 RDW-13.2 Plt 
___
___ 09:35AM BLOOD Glucose-118* UreaN-33* Creat-1.1 Na-144 
K-3.4 Cl-107 HCO3-21* AnGap-19 ALT-21 AST-22 AlkPhos-53 
TotBili-0.6 Lipase-16 Albumin-4.6
 - ___ 10:30AM URINE Color-Yellow Appear-Hazy Sp ___ 
Blood-NEG Nitrite-NEG Protein-30 Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG RBC-1 WBC-4 Bacteri-MOD 
Yeast-NONE Epi-0 CastGr-7* CastHy-93* CastCel-1*
.
Microbiology:
___ Stool Cultures:
___ 9:58 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 
   FECAL CULTURE (Pending): 
   CAMPYLOBACTER CULTURE (Pending): 
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 
.
___ Urine Cultures NGTD
___ 06:47AM BLOOD WBC-6.6# RBC-3.72* Hgb-12.3 Hct-36.5 
MCV-98 MCH-33.2* MCHC-33.8 RDW-12.6 Plt ___
___ 06:47AM BLOOD Glucose-93 UreaN-12 Creat-0.7 Na-143 
K-3.7 Cl-109* HCO3-28 AnGap-10
___ 09:35AM BLOOD ALT-21 AST-22 AlkPhos-53 TotBili-0.6
___ 09:35AM BLOOD cTropnT-<0.01
___ 06:47AM BLOOD Calcium-8.2* Phos-2.4* Mg-1.___ y/o F with PMhx of IBS and Dementia who presented with ___ 
days of nausea, vomiting and non-bloody diarrhea. Pt was notably 
dehydrated on admission with acute renal failure and symptomatic 
orthostasis. She was treated with IVF and bowel rest.  
Infectious work up including Cdiff returned negative and 
presentation was most consistent with norovirus.  Pt was slowly 
advanced a diet and diarrhea improved.  Renal function returned 
to baseline with IVF and pt was tolerating a bland diet without 
any evidence of orthostasis by the day of discharge.  Pt was 
seen by ___ who felt that she was safe for discharge home without 
services.  
.
Conjunctivitis (left eye): At the time of admission, pt reported 
being treated with azithromycin drops for left eye 
conjunctivitis but was having ongoing symptoms. Pt was started 
on erythromycin opthalmic ointment with some improvement in 
conjunctival injection.  She was instructed to monitor for any 
worsening in eye symptoms and was scheduled for follow up with 
her PCP.
.
Otherwise, there were no changes made to her chronic medication 
regimen 
.
Code Status: DNR/DNI confirmed on admission with patient and her 
HCP.

 
Medications on Admission:
-list confirmed with primary caregiver on admission-
___ 10 mg daily 
Namenda 10 mg daily
Aspirin 162.5 mg daily    
Raloxifene (Evista) 60 mg daily   
Multivitamin daily
Glucosamine    
Calcium supplement
Cholecalciferol (Vitamin D3) 1,000 units daily   
Ascorbic Acid SR 500 mg daily
 
Discharge Medications:
1. donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
2. Namenda 10 mg Tablet Sig: One (1) Tablet PO qhs ().  
3. aspirin 162 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
4. raloxifene 60 mg Tablet Sig: One (1) Tablet PO once a week.  
5. multivitamin  Oral
6. Glucosamine  Oral
7. Vitamin D  Oral
8. ascorbic acid  Oral
9. Calcium 500  Oral
10. erythromycin 5 mg/gram (0.5 %) Ointment Sig: 0.5 inch 
Ophthalmic four times a day for 5 days: apply to left eye  for 
another 5 days .
Disp:*qs tube* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Gastrointestinal Virus
Dehydration 
Symptomatic orthostasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with an acute diarrheal illness and 
dehydration.  This was likely due to a virus which can be very 
contagious.  You have been treated with IV fluids and supportive 
care with improvement in your symptoms.  You have been seen by 
physical therapy who agree that you are safe to return home 
today.  We encourage you take as much oral hydration as possible 
and continue advancing your diet as tolerated.  Please keep your 
appointment with Dr. ___ on ___.
.
We have given you a new prescription to help treat the left eye 
conjunctivitis, please continue using the erythromycin ointment 
for another 5 days.  If you develop any rash on your face, 
fevers, visual changes or worsening in eye symptoms, please call 
your PCP or return for urgent evaluation.
.
Otherwise, we have not made any changes to your medications
 
Followup Instructions:
___